US05654307
A mixture of 7-amino-4-methylthiopyrido[4,3-d]pyrimidine (225 mg, 1.17 mmol) and 4-(trifluoromethyl)benzylamine (0.63 mL, 4.42 mmol) is stirred under N2 at 140° C. for 1 h. The resulting product is chromatographed on alumina (5-10% EtOH/CHCl3) then silica gel (2-10% EtOH/EtOAc) to give 7-amino-4-[(4-trifluoromethylphenyl)methylamino]pyrido[4,3-d]pyrimidine (0.21 g, 56%) as a light brown solid. 1H NMR (DMSO) δ 9.12 (1H, s), 8.94 (1H, t, J=5.8 Hz), 8.24 (1H, s), 7.69 (2H, d, J=8.1 Hz), 7.56 (2H, d, J=8.1 Hz), 6.48 (2H, brs), 6.38 (1H, s), 4.82 (2H, d, J=5.8 Hz).

reactant | 7-amino-4-methylthiopyrido[4,3-d]pyrimidine | 1.17 mmol, 225 mg | NC1=CC=2N=CN=C(C2C=N1)SC | C8H8N4S
reactant | 4-(trifluoromethyl)benzylamine | 4.42 mmol, 0.63 mL | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
product | 7-amino-4-[(4-trifluoromethylphenyl)methylamino]pyrido[4,3-d]pyrimidine | 0.21 g, 56% | NC1=CC=2N=CN=C(C2C=N1)NCC1=CC=C(C=C1)C(F)(F)F | C15H12F3N5
